US20010025042A1
Part A: To 5-methoxyindole (5.0 g) in glacial acetic acid (90 mL, 15-17° C.) was added sodium cyanoborohydride (6.41 g, 3 eq.), and the mixture was stirred 2 h. Water (250 mL) was added to the mixture, which was then cooled in an ice bath and made strongly basic with sodium hydroxide pellets. The solution was extracted with ether, which was then washed with water and brine and dried over MgSO4. The ether solution was concentrated to give 5-methoxyindoline, which was reacted without further purification.

reactant | 5-methoxyindole | 5.0 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | sodium cyanoborohydride | 6.41 g, 3 eq. | C(#N)[BH3-].[Na+]
reactant | Water | 250 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
product | 5-methoxyindoline | COC=1C=C2CCNC2=CC1 | C9H11NO
